*differential circuit to combine erxxn and erxxp
.include UniversalOpAmp1.lib

.subckt diff_sub inn inp vdd vss out PARAMS: Ra=1k Rb=1k

*input resistors
Xop0 0 inp vdd vss n001 level1
R0 inp n001 R={Ra}
R1 n001 inn R={Ra}
Xop1 0 inn vdd vss out level1
R2 inn out R={Rb}

.ends