*An attempt to introduce non linearoty to our model
.subckt memristor_simple in out

* Define parameters for the memristor model: ron (on resistance), roff (off resistance), and R (initial):
.params ron=100.7 roff=12.6e3 R=17803.4 

* Voltage-controlled current source to simulate the memristive behavior:
G2 0 out value={(R * V(in) * V(out))}

* Voltage-controlled current source representing the memristor's state-dependent resistance
G1 in out value={(V(in) / (ron * V(out) + roff * (-V(out) + 1)))}  

.ends memristor_simple 


*Simplified version of the memristor model of the following paper:
*V. Mladenov and S. Kirilov, "An Improved Memristor Model and Applications," 
*2023 12th International Conference 
*on Modern Circuits and Systems Technologies (MOCAST), 
*Athens, Greece, 2023, pp. 1-4, doi: 10.1109/MOCAST57943.2023.10176507.

